US05317017
Step B: 2,3,4,5-Tetrahydro-3-iodo-4-(4-methoxy-phenyl)-1H-1-benzazepin-2-one
To a cooled (-20° C.) solution of 500mg (1.87mmole) of 2,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one in 10 mL of methylene chloride was added triethylamine (1.04g, 9.35 mmol, 5eq.) followed by trimethylsilyl iodide (749mg, 3.74mmol, 2eq.). After 15 minutes, 950 mg (3,74 mmol, 2eq) of iodine was added and the brown mixture was stirred at 0° C. for one hour. The reaction mixture was diluted with methylene chloride, washed with aqueous sodium bisulfite solution, water and brine and then dried (MgSO4). Filtration followed by evaporation of the solvent under vacuum gave the product as a mixture of cis and trans isomers (675 mg,92%). FAB-MS: calculated for C17H16NO2I 393; found 393 (100%), 394 (20%).

reactant | 2,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one | 1.87mmole, 500mg | COC1=CC=C(C=C1)C1CC(NC2=C(C1)C=CC=C2)=O | C17H17NO2
reactant | triethylamine | 9.35 mmol, 1.04g, 5eq. | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl iodide | 3.74mmol, 749mg, 2eq. | C[Si](C)(C)I | C3H9ISi
reactant | iodine | 3,74 mmol, 950 mg, 2eq | II | I2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,3,4,5-Tetrahydro-3-iodo-4-(4-methoxy-phenyl)-1H-1-benzazepin-2-one | IC1C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O | C17H16INO2
